US06251936B1
Acetic acid 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenyl ester
A solution of acetic acid 4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenyl ester (10.0 g, 26.7 mmol) and ferric chloride (0.23 g, 1.4 mmol) in anhydrous methylene chloride (231 mL) was placed at −78 C. under nitrogen. The reaction mixture was protected from light and a solution of bromine (1.5 mL, 29.4 mmol) in anhydrous methylene chloride (38 mL) was added dropwise over a period of 50 min. After 30 min the reaction was quenched with dilute sodium bisulfite, diluted with water, and the resulting mixture was extracted with diethyl ether. The diethyl ether layer was washed twice with water, brine, and then dried (MgSO4). Concentration under reduced pressure and chromatography with petroleum ether:ethyl acetate (97:3, then 95:5) gave the title compound as a white solid (6.7 g, 55%): NMR (DMSO-d6): δ8.27 (d, 1H), 7.60 (d, 1H), 7.56-7.52 (ddd, 1H), 7.38-7.34 (ddd, 1H), 7.06 (s, 2H), 2.43 (s, 3H), 2.41 (s, 3H), 2.22 (s, 6H), 1.64 (s, 3H); MS(EI): [M+], 1 bromine isotope pattern, 452/454; Anal. Calc. for C24H21BrO2S: C, 63.58; H, 4.67; N, 0.00. Found: C, 63.41; H, 4.45; N, 0.08.

reactant | acetic acid 4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenyl ester | 26.7 mmol, 10.0 g | CC1=C(C2=C(S1)C=C1C=CC=CC1=C2C2=CC(=C(C(=C2)C)OC(C)=O)C)C | C24H22O2S
reactant | bromine | 29.4 mmol, 1.5 mL | BrBr | Br2
solvent | methylene chloride | 231 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 38 mL | C(Cl)Cl | CH2Cl2
product | Acetic acid 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenyl ester | 6.7 g, 55% | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC(=C(C(=C2)C)OC(C)=O)C | C24H21BrO2S
